US06605623B1
Part A. Preparation of N-Methyl-4-nitro-benzamide
4-Nitrobenzoyl chloride (7.00 g, 38 mmol, 1 eq) was dissolved in 50 ml of THF and added to a 2.0 M solution of methylamine in THF (41.5 ml, 83 mmol, 2.2 eq.) at 0° C. Worked up after 3 hours by adding EtOAc and rinsing 3× with 1N NaOH, 1× with brine. The organic layer was dried over MgSO4, then stripped to obtain 2.25 g of off-white solids as product. NMR (300 MHz, DMSO-d6) δ 8.80 (m, 1H), 8.33 (d, 2H, J=7 Hz), 8.06 (d, 2H, J=7 Hz). 2.86 (d, 3H, J=7 Hz).

reactant | 4-Nitrobenzoyl chloride | 38 mmol, 7.00 g, 1 eq | [N+](=O)([O-])C1=CC=C(C(=O)Cl)C=C1 | C7H4ClNO3
reactant | methylamine | CN | CH5N
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | THF | 83 mmol, 41.5 ml, 2.2 eq. | C1CCOC1 | C4H8O
product | N-Methyl-4-nitro-benzamide | 2.25 g | CNC(C1=CC=C(C=C1)[N+](=O)[O-])=O | C8H8N2O3
